US08710245B2
(b) Synthesis of (2-(5-bromo-4-iodothiophen-2-yl)ethoxy)triisopropylsilane
To a solution of (2-(5-bromothiophen-2-yl)ethoxy)triisopropylsilane (7.24 g, 20 mmol) in dry THF (80 mL) at −5° C. was added LDA (20 mL in THF, 30 mmol) dropwise. After stirred for 1 h, NIS (6.75 g, 30 mmol) in dry THF (20 mL) was added dropwise and the resulting mixture was stirred for another 2 h. The reaction was quenched with water (30 mL) and the resulting mixture was extracted with EtOAc (3×150 mL), washed with brine, dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (5.9 g, 61%).

reactant | (2-(5-bromothiophen-2-yl)ethoxy)triisopropylsilane | 20 mmol, 7.24 g | BrC1=CC=C(S1)CCO[Si](C(C)C)(C(C)C)C(C)C | C15H27BrOSSi
reactant | LDA | 30 mmol, 20 mL | [Li+].CC(C)[N-]C(C)C
reactant | NIS | 30 mmol, 6.75 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-(5-bromo-4-iodothiophen-2-yl)ethoxy)triisopropylsilane | 5.9 g, 61% | BrC1=C(C=C(S1)CCO[Si](C(C)C)(C(C)C)C(C)C)I | C15H26BrIOSSi
